US08212041B2
3-methoxy-6-(2-(6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)propan-2-yl)quinoline
A solution of 2-(3-methoxyquinolin-6-yl)-2-methyl-N′-(6-phenylpyridazin-3-yl)propanehydrazide (270 mg, 653 μmol) in TFA (2 mL) was heated to 150° C. in microwave (6 bar; 20 W) for 2 h. LCMS suggests very good conversion: 89425-17-1. Reaction concentrated under reduced pressure then partitioned between CHCl3/IPA (50 mL) and 1M NaOH (50 mL). Aqueous further extracted with CHCl3/IPA (15 mL) and combined organics dried over MgSO4, concentrated, then dissolved in ACN (2 mL). Crystallized solid washed with ACN (1 mL) and dried under reduced pressure. MS (ESI pos. ion) m/z: 396 (MH+). Calc'd exact mass for C24H21N5O: 395.

reactant | 2-(3-methoxyquinolin-6-yl)-2-methyl-N′-(6-phenylpyridazin-3-yl)propanehydrazide | 653 μmol, 270 mg | COC=1C=NC2=CC=C(C=C2C1)C(C(=O)NNC=1N=NC(=CC1)C1=CC=CC=C1)(C)C | C24H23N5O2
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-methoxy-6-(2-(6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)propan-2-yl)quinoline | COC=1C=NC2=CC=C(C=C2C1)C(C)(C)C1=NN=C2N1N=C(C=C2)C2=CC=CC=C2 | C24H21N5O
